US09163008B2
A mixture of 1-tert-butyl 3-methyl piperazine-1,3-dicarboxylate (5.133 g, 21.01 mmol), methyl 2,6-dichloropyrimidine-4-carboxylate (4.354 g, 21.03 mmol), and iPr2NEt (4.0 mL, 23.0 mmol) in acetonitrile (50 mL) was heated at 50° C. for 4 h. After cooling, the reaction mixture was evaporated in vacuo and the residue chromatographed over silica gel with 20-70% EtOAc in hexanes. The product fractions were evaporated in vacuo to give 1-tert-butyl 3-methyl 4-(2-chloro-6-(methoxycarbonyl)pyrimidin-4-yl)piperazine-1,3-dicarboxylate as a very pale yellow powder (6.626 g, 15.97 mmol, 76% yield). LC/MS: m/z=415.2 [M+H]+.

reactant | 1-tert-butyl 3-methyl piperazine-1,3-dicarboxylate | 21.01 mmol, 5.133 g | N1(CC(NCC1)C(=O)OC)C(=O)OC(C)(C)C | C11H20N2O4
reactant | methyl 2,6-dichloropyrimidine-4-carboxylate | 21.03 mmol, 4.354 g | ClC1=NC(=CC(=N1)C(=O)OC)Cl | C6H4Cl2N2O2
reactant | iPr2NEt | 23.0 mmol, 4.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-tert-butyl 3-methyl 4-(2-chloro-6-(methoxycarbonyl)pyrimidin-4-yl)piperazine-1,3-dicarboxylate | ClC1=NC(=CC(=N1)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC)C(=O)OC | C17H23ClN4O6
